US06110929
Under a nitrogen atmosphere, 3-fluoroaniline (50.0 g, 0.45 mol) and diethyl ethoxymethylmalonate (91 mL, 0.45 mol) were combined and heated at 100° C. for 3 hours. The reaction was allowed to cool to ambient temperature and it solidified. Dowtherm A (200 mL) was added and the reaction mixture was heated at 240° C. for 4 hours. The reaction mixture was allowed to cool to ambient temperature. The resulting precipitate was isolated by filtration, washed with hexane and then dried in a vacuum oven to provide 71.5 g of ethyl 7-fluoro-4-hydroxy-3-quinolinecarboxylate.

reactant | 3-fluoroaniline | 0.45 mol, 50.0 g | FC=1C=C(N)C=CC1 | C6H6FN
reactant | diethyl ethoxymethylmalonate | 0.45 mol, 91 mL | C(C)OCC(C(=O)OCC)C(=O)OCC | C10H18O5
solvent | Dowtherm A | 200 mL | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
product | ethyl 7-fluoro-4-hydroxy-3-quinolinecarboxylate | 71.5 g | FC1=CC=C2C(=C(C=NC2=C1)C(=O)OCC)O | C12H10FNO3
